US06878714B2
To a suspension of 1H-pyrrolo[2,3-b]pyridine (10.0 g) and NaHCO3 (45.2 g) in 1:1 MeOH/H2O (1000 mL) was added Oxone® (106 g) in potions during 40 min period. The mixture was stirred at RT for 5 h. The sold was removed by filtration and the filtrate was concentrated to 200 mL in volume. This aqueous phase was extracted with CH2Cl2 (200 mL×7) to afford 1H-pyrrolo[2,3-b]pyridine 7-oxide.

reactant | 1H-pyrrolo[2,3-b]pyridine | 10.0 g | N1C=CC=2C1=NC=CC2 | C7H6N2
reactant | NaHCO3 | 45.2 g | C(=O)(O)[O-].[Na+]
reactant | Oxone | OOS(=O)[O-].[K+]
solvent | MeOH H2O | 1000 mL | CO.O
product | 1H-pyrrolo[2,3-b]pyridine 7-oxide | N1C=CC=2C1=[N+](C=CC2)[O-] | C7H6N2O
